US08039455B2
e) 3-Allyloxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid
To the solution of 1.57 g (7.1 mmol) 3-hydroxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid in 5 ml DMF are added 1.02 g (21.3 mmol, 3 eq) 50% sodium hydride in oil. After gas evolution stops 2.53 ml (28.4 mmol, 4 eq) allylbromide are added and the reaction mixture is stirred 4 days at 60° C. The reaction is diluted with water and extracted with EtOAc. The organic layer is dried over sodium sulfate and the solvent is evaporated at reduced pressure. The resulting ester is redissolved in 40 ml MeOH and 0.347 g (8.2 mmol, 1.2 eq) lithiumhydroxide monohydrate are added. The reaction is stirred at rt for 48 h. After evaporation of part of the solvent at reduced pressure the reaction is taken into water and washed with EtOAc. The aqueous layer is acidified with potassium hydrogensulfate and extracted with EtOAc. Drying over sodium sulfate and evaporation of the solvent at reduced pressure gives the product.

reactant | 3-hydroxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid | 7.1 mmol, 1.57 g | OC=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O | C11H11NO4
reactant | sodium hydride | 21.3 mmol, 1.02 g, 3 eq | [H-].[Na+]
reactant | allylbromide | 28.4 mmol, 2.53 ml, 4 eq | C(C=C)Br | C3H5Br
reactant | lithiumhydroxide monohydrate | 8.2 mmol, 0.347 g, 1.2 eq | O.[OH-].[Li+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Allyloxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid | C(C=C)OC=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O | C14H15NO4
